US04374137
6-Chloro-2'-propylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] hydrochloride
To a refluxing suspension of lithium aluminum hydride (1.4 g) in tetrahydrofuran (100 ml) is slowly dropped 6-chloro-2'-propionylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (6.1 g) in tetrahydrofuran (50 ml). The reaction mixture is heated under reflux for four hours, cooled and quenched by the dropwise addition of saturated ammonium chloride solution (100 ml). The mixture is filtered, diluted with ether, washed with water (2x), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent is removed to yield an oil which is dissolved in ether and converted to the product hydrochloride salt (6.0 g, 90%). The salt is recrystallized from ethyl acetate/methanol to yield the analytical sample as a white solid, mp 227°-228° (dec.).

reactant | lithium aluminum hydride | 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-chloro-2'-propionylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 6.1 g | ClC1=CC2=C(CC3(CN(CC4=CC=CC=C34)C(CC)=O)O2)C=C1 | C19H18ClNO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-Chloro-2'-propylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] hydrochloride | Cl.ClC1=CC2=C(CC3(CN(CC4=CC=CC=C34)CCC)O2)C=C1 | InChI=1S/C19H20ClNO.ClH/c1-2-9-21-12-15-5-3-4-6-17(15)19(13-21)11-14-7-8-16(20)10-18(14)22-19;/h3-8,10H,2,9,11-13H2,1H3;1H
